US06407096B1
Methyl (4-(2-(1,1-diphenyl-2,2,2-trifluoroethylthio)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate
The same process as Example 1 was repeated except that methyl (4-(2-hydroxyethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate (375 mg) and 1,1-diphenyl-2,2,2-trifluoroethanethiol (385 mg). were used to obtain the object compound (614 mg, yield 85%).

reactant | methyl (4-(2-hydroxyethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate | 375 mg | OCCN1CCOC2=C1C=CC=C2OCC(=O)OC | C13H17NO5
reactant | 1,1-diphenyl-2,2,2-trifluoroethanethiol | 385 mg | C1(=CC=CC=C1)C(C(F)(F)F)(S)C1=CC=CC=C1 | C14H11F3S
product | Methyl (4-(2-(1,1-diphenyl-2,2,2-trifluoroethylthio)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate | 614 mg, yield 85% | C1(=CC=CC=C1)C(C(F)(F)F)(SCCN1CCOC2=C1C=CC=C2OCC(=O)OC)C2=CC=CC=C2 | C27H26F3NO4S
